US05696255
0.282 g (1 mmol) of 2-aminoadenosine is suspended in a mixture of 7 ml of 50% HF-pyridine and 0.35 ml of H2O at -30° C. and within 30 minutes, 1.2 ml (~9 mol) of tert-butyl nitrite is instilled slowly with vigorous stirring at -30° C. After another 30 minutes at -25°→-30° C., the reaction mixture is instilled slowly in 120 ml of 33% aqueous ammonia at -10° C. with stirring and stirred for 1 hour at 0° C. After adding 7 g of solid calcium hydroxide, it is stirred for another 15 minutes at 0° C., filtered and washed with 40 ml of H2O. The light yellow filtrate is carefully concentrated by evaporation at about 25° C.-30° C. to about 15 ml and CO2 is introduced. After filtering off the small amount of precipitate and after washing the precipitate with 10 ml of H2O, the filtrate is concentrated by evaporation at a 10 mm vacuum. The yellowish-brown residue (0.39 g) is dissolved in 15 ml of methanol-H2O (1:1), mixed with 10 g of silica gel (40% H2O) and evaporated at a 10 mm vacuum. After feeding dry silica gel containing the substance on a column of 15 g of silica gel (40% H2O), which was taken up with isopropanol, elution with about 300 ml of isopropanol yields 0.261 g (~91%) of crude 2-fluoroadenosine, which still contains a little 2-aminoadenosine as well as isoguanosine.

reactant | 2-aminoadenosine | 1 mmol, 0.282 g | NC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H14N6O4
reactant | tert-butyl nitrite | ~9 mol, 1.2 ml | N(=O)OC(C)(C)C | C4H9NO2
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | HF-pyridine | 7 ml | C1=CC=NC=C1.F
solvent | H2O | 0.35 ml | O | H2O
solvent | ammonia | 120 ml | N | H3N
product | 2-fluoroadenosine | 0.261 g, ~91% | FC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12FN5O4
